US06255496B1
(2S, 4S)-1-N-Dodecy-4-(4-iodophenoxy)pyrrolidine-2-methanol
To a solution of (2S, 4S)-1-N-dodecyl-4-(4-iodophenoxy)pyrrolidine-2-carboxylic acid, methyl ester (2.09 g, 4.06 mmol) in tetrahydrofuran (20 ml) at −78° C. was added dropwise diisobutylaluminum hydride (1.0 M in hexane, 15.0 ml, 15.0 mmol). After stirring at this temperature for 5 min. and at 0° C. for 2.5 h, the reaction was quenched with water at 0° C. After stirring at r.t. for 10 min., the mixture was diluted with ethyl acetate (250 ml), washed with 2N sodium hydroxide (3×100 ml), 35% sodium and potassium tartrate (2×100 ml), brine (100 ml), dried over sodium sulfate and concentrated in vacuo. The residue was chromatographed on silica gel (hexane/ethyl acetate 3:1 to 2:1) to afford the title compound (1.65 g, 79%) as a colorless oil. [a]D=−18.5° (c 0.92, CHCl3).

reactant | (2S, 4S)-1-N-dodecyl-4-(4-iodophenoxy)pyrrolidine-2-carboxylic acid, methyl ester | 4.06 mmol, 2.09 g | C(CCCCCCCCCCC)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)I)C(=O)OC | C24H38INO3
reactant | diisobutylaluminum hydride | 15.0 mmol, 1.0 M, 15.0 ml | [H-].C(C(C)C)[Al+]CC(C)C
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | (2S, 4S)-1-N-Dodecy-4-(4-iodophenoxy)pyrrolidine-2-methanol | 1.65 g, 79% | C(CCCCCCCCCCC)N1[C@@H](C[C@@H](C1)OC1=CC=C(C=C1)I)CO | C23H38INO2
